US06730668B2
Preparation of 2-(4-fluorophenyl)-6-hydroxy-3-(2-phenoxypyrimidin-4-yl)-6,7-dihydro-5H-pyrazolo[1,2-a]pyrazol-1-one (36):
A solution of 2,2-dimethyl-propionic acid 6-(4-fluorophenyl)-7-(2-methane-sulfonyl-pyrimidin-4-yl)-5-oxo-2,3-dihydro-1H,5H-pyrazolo[1,2-a]pyrazol-2-yl ester, 35, (50 mg, 0.105 mmol) in THF (1 mL) is slowly cannulated into a solution of sodium phenolate in THF (1 mL) at 0° C. The cooling bath is removed and the reaction stirred at room temperature for 1 hour. The reaction is quenched with NH4Cl (sat. aq.) (500 μL). The reaction mixture is concentrated in vacuo and the residue diluted taken up in ethyl acetate (15 mL). The solution is washed with water (20 mL) and a 5% aqueous Na2CO3 (20 mL). The combined aqueous layers are extracted with ethyl acetate (25 mL) and brine (20 mL), dried, filtered and concentrated in vacuo. The crude material is purified over silica (100% ethyl acetate to 5% to 10% to 20% methyl alcohol/ethyl acetate) to afford 9 mg (21% yield) of the desired product as a yellow solid. 1H NMR (300 MHz, CDCl3) δ 8.43 (d, J=5.2 Hz, 1H), 7.46 (t, J=7.8 Hz, 2H), 7.31-7.27 (m, 3H), 7.19 (d, J=8.2 Hz, 2H), 7.03 (t, J=8.6 Hz, 2H), 6.80 (d, J=5.2 Hz, 1H), 5.41 (br s, 1H), 4.82 (m, 1H), 4.23 (d, J=12.4 Hz, 1H), 3.95-3.85 (m, 2H), 3.76 (dd, J=12.4, 4.4 Hz, 1H); HRMS m/z calcd for C22H18FN4O3 (MH+) 405.1363, found 405.1365.

reactant | 2,2-dimethyl-propionic acid 6-(4-fluorophenyl)-7-(2-methane-sulfonyl-pyrimidin-4-yl)-5-oxo-2,3-dihydro-1H,5H-pyrazolo[1,2-a]pyrazol-2-yl ester | FC1=CC=C(C=C1)C=1C(N2N(C1C1=NC(=NC=C1)S(=O)(=O)C)CC(C2)OC(C(C)(C)C)=O)=O | C22H23FN4O5S
reactant | sodium phenolate | C1(=CC=CC=C1)[O-].[Na+]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 2-(4-fluorophenyl)-6-hydroxy-3-(2-phenoxypyrimidin-4-yl)-6,7-dihydro-5H-pyrazolo[1,2-a]pyrazol-1-one | 9 mg, 21% yield | FC1=CC=C(C=C1)C1=C(N2N(CC(C2)O)C1=O)C1=NC(=NC=C1)OC1=CC=CC=C1 | C22H17FN4O3
